US07592373B2
1.2.b. 4-[(4-prop-1-ynylphenylcarbamoyl)ethynyl]benzyl methanesulfonate
0.14 mL (1.8 mmol) of methanesulfonic acid chloride is slowly added dropwise at ambient temperature to a solution of 0.5 g (1.72 mmol) of 3-(4-hydroxymethylphenyl)propynoic acid (4-prop-1-ynylphenyl)amide and 0.49 mL (3.6 mmol) of triethylamine in 20 mL of dichloromethane and the reaction mixture is stirred for 2 hours at ambient temperature. It is extracted three times with water and the organic phase is dried over sodium sulfate. The solvent is distilled off and the residue is stirred with diisopropyl ether. Yield: 0.48 g (75.6% of theory); C20H17NO4S (M=367.42); calc.: molecular ion peak (M+H)+: 368; found: molecular ion peak (M+H)+: 368; Rf value: 0.48 (silica gel, dichloromethane/ethanol (20:1)).

reactant | methanesulfonic acid chloride | 1.8 mmol, 0.14 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 3-(4-hydroxymethylphenyl)propynoic acid (4-prop-1-ynylphenyl)amide | 1.72 mmol, 0.5 g | C(#CC)C1=CC=C(C=C1)NC(C#CC1=CC=C(C=C1)CO)=O | C19H15NO2
reactant | triethylamine | 3.6 mmol, 0.49 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 4-[(4-prop-1-ynylphenylcarbamoyl)ethynyl]benzyl methanesulfonate | CS(=O)(=O)OCC1=CC=C(C=C1)C#CC(NC1=CC=C(C=C1)C#CC)=O | C20H17NO4S
